US07300951B2
To a solution of the crude 5,5,5-trifluoronorvaline (0.785 g, 4.59 mmol) and NaOH mixture dissolved in THF (10 ml) and 2N NaOH (10 mL) was added dropwise a solution of 5-chlorothiophene-2-sulfonyl chloride (1.32 g, 5.04 mmol) in THF (10 ml) over 30 min. After 60 min, the reaction mixture was allowed to warm gradually to 25° C. and stirred for 16 h. THF was removed in vacuo and the mixture was acidified to a pH of about 2 with 1N HCl. After 15 min, a precipitate began to crash out of the milky white solution. After 60 min, the mixture was cooled to 0° C. for 45 min and then filtered. The precipitate was washed with 1N HCl (10 mL) to provide a white solid. The white solid gummed out. It was dissolved in EtOAc (100 mL). The aqueous was washed with EtOAc (3×50 mL) and the organic layers were washed with saturated aqueous NaCl (50 mL). The organic layer was dried over MgSO4, filtered and concentrated to afford N-[(5-chlorothien-2-yl)sulfonyl]-5,5,5-trifluoronorvaline as a dark red oil (1.1 g, 68.3%). Mass Spectrum (−ESI): 350 (M−H).

reactant | 5,5,5-trifluoronorvaline | 4.59 mmol, 0.785 g | FC(CC[C@H](N)C(=O)O)(F)F | C5H8F3NO2
reactant | NaOH | [OH-].[Na+]
reactant | NaOH | 2N, 10 mL | [OH-].[Na+]
reactant | 5-chlorothiophene-2-sulfonyl chloride | 5.04 mmol, 1.32 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-[(5-chlorothien-2-yl)sulfonyl]-5,5,5-trifluoronorvaline | 1.1 g, 68.3% | ClC1=CC=C(S1)S(=O)(=O)N[C@@H](CCC(F)(F)F)C(=O)O | C9H9ClF3NO4S2
